US04056537
A solution of 1-methyl-1,3,4,9-tetrahydropyrano[3,4-b]indole-1-carboxaldehyde (547 mg), described in Example 777, aqueous hydroxylamine hydrochloride (2.5 ml of 5N) and aqueous sodium acetate (2.5 ml of 5N) and methanol (5 ml) is heated at 50° - 60° C. for 5 min. and then kept at 4° C. for 16 hr. The precipitate is collected and recrystallized from ethanol water to afford 1-methyl-1,3,4,9-tetrahydropyrano[3,4-b]indole-1-carboxaldehyde oxime, m.p. 176° - 178° C.

reactant | 1-methyl-1,3,4,9-tetrahydropyrano[3,4-b]indole-1-carboxaldehyde | 547 mg | CC1(OCCC2=C1NC1=CC=CC=C21)C=O | C13H13NO2
reactant | hydroxylamine hydrochloride | 5N, 2.5 ml | Cl.NO
reactant | sodium acetate | 5N, 2.5 ml | C(C)(=O)[O-].[Na+]
solvent | methanol | 5 ml | CO | CH4O
product | 1-methyl-1,3,4,9-tetrahydropyrano[3,4-b]indole-1-carboxaldehyde oxime | CC1(OCCC2=C1NC1=CC=CC=C21)C=NO | C13H14N2O2
